US05262385
0.32 g (3 mmol) of acetic anhydride and a catalytic amount of concentrated sulfuric acid were added at room temperature to 0.5 g (3 mmol) of 1-fluoro-2-hydroxycyclopentanecarboxylic acid methyl ester in cis form (compound number 2a) synthesized in Example 1, and the mixture was stirred for 5 hours. The reaction solution was poured into ice water and extracted with ethyl acetate, and the extract was successively washed with saturated saline, a saturated aqueous sodium bicarbonate solution and saturated saline. The ethyl acetate layer was dried over anhydrous magnesium sulfate and the solvent was distilled away to obtain 0.45 g (yield: 72%) of the objective 2-acetoxy-1-fluoro-1-cyclopentanecarboxylic acid methyl ester in cis form (compound number 3a).

reactant | acetic anhydride | 3 mmol, 0.32 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-fluoro-2-hydroxycyclopentanecarboxylic acid methyl ester | 3 mmol | COC(=O)C1(C(CCC1)O)F | C7H11FO3
product | 2-acetoxy-1-fluoro-1-cyclopentanecarboxylic acid methyl ester | 0.45 g, yield: 72% | COC(=O)C1(C(CCC1)OC(C)=O)F | C9H13FO4
